US04935431
Ethyl 3-methyl-7-(2-methylphenylamino)thieno[3,2-b]-pyridine-6-carboxylate
Ethyl 3-methyl-7-chlorothieno[3,2-b]pyridine-6-carboxylate (3.0 g, 0.0117 mol) and o-toluidine (2.51 g, 0.0234 mol) in anisole (30 ml) were heated under reflux for three hours. The solvent was evaporated under reduced pressure, taken up in chloroform and washed in turn with 2NHCl, H2O, aqNa2CO3, H2O and brine, dried and evaporated to give an oil. This oil was purified by flash chromatography (silica, 40-60 mesh) using dichloromethane as eluant to give a buff coloured solid. This was crystallised from methanol to give the title compound, 2.3 g, m.p. 132°-134°.

reactant | Ethyl 3-methyl-7-chlorothieno[3,2-b]pyridine-6-carboxylate | 0.0117 mol, 3.0 g | CC1=CSC=2C1=NC=C(C2Cl)C(=O)OCC | C11H10ClNO2S
reactant | o-toluidine | 0.0234 mol, 2.51 g | NC=1C(=CC=CC1)C | C7H9N
solvent | anisole | 30 ml | C1(=CC=CC=C1)OC | C7H8O
product | Ethyl 3-methyl-7-(2-methylphenylamino)thieno[3,2-b]-pyridine-6-carboxylate | CC1=CSC=2C1=NC=C(C2NC2=C(C=CC=C2)C)C(=O)OCC | C18H18N2O2S
